US07220759B2
By the reaction in the same manner as in Example 1a, using N,N-diethyl-2-methylbenzamide (1.91 g) and 3-hydroxy-4-(pyrrolidin-1-yl)butyronitrile (1.54 g), 3-[2-hydroxy-3-(pyrrolidin-1-yl)propyl]-2H-isoquinolin-1-one (0.089 g) was obtained.

reactant | N,N-diethyl-2-methylbenzamide | 1.91 g | C(C)N(C(C1=C(C=CC=C1)C)=O)CC | C12H17NO
reactant | 3-hydroxy-4-(pyrrolidin-1-yl)butyronitrile | 1.54 g | OC(CC#N)CN1CCCC1 | C8H14N2O
product | 3-[2-hydroxy-3-(pyrrolidin-1-yl)propyl]-2H-isoquinolin-1-one | 0.089 g | OC(CC=1NC(C2=CC=CC=C2C1)=O)CN1CCCC1 | C16H20N2O2
